US07368567B2
A solution of 1-(5-benzenesulfonyl-2-benzyloxy-phenyl)-ethanone (2.16 g; 0.059 mol) and meta-chloroperoxybenzoic acid (3.98 g; 0.018 mol, max. 77%) in chloroform (20 mL) was heated under reflux for 18 hours. After cooling to ambient temperature the mixture was diluted with chloroform, filtered, washed with water and saturated sodium bicarbonate, dried (Na2SO4) and concentrated in vacuo. The crude material was purified by flash chromatography on silica gel (hexane-ethyl acetate; 1:1) to give acetic acid 5-benzenesulfonyl-2-benzyloxy-phenyl ester (2.1 g; 93%): M. p. 106.9-111.1° C.

reactant | 1-(5-benzenesulfonyl-2-benzyloxy-phenyl)-ethanone | 0.059 mol, 2.16 g | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC(=C(C1)C(C)=O)OCC1=CC=CC=C1 | C21H18O4S
reactant | meta-chloroperoxybenzoic acid | 0.018 mol, 3.98 g | ClC=1C=C(C(=O)OO)C=CC1 | C7H5ClO3
solvent | chloroform | 20 mL | C(Cl)(Cl)Cl | CHCl3
product | acetic acid 5-benzenesulfonyl-2-benzyloxy-phenyl ester | 2.1 g, 93% | C1(=CC=CC=C1)S(=O)(=O)C=1C=CC(=C(C1)OC(C)=O)OCC1=CC=CC=C1 | C21H18O5S
